US04626533
1.96 g. of 7-bromoacetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid and 1.45 g. of 2-(4-chlorophenoxymethyl)-5-mercapto-1,3,4-oxadiazole were dissolved in 20 ml. of anhydrous dimethyl formamide and 1.52 g. of calcinated potassium carbonate were added thereto. The reaction mixture was stirred at ambient temperature for 8 hours. 50 ml. of ether were added, the precipitate was filtered off and dissolved in 50 ml. of water. The pH of the solution was adjusted to 5 by adding some diluted sulphuric acid and then it was extracted with 30 ml. of ethyl acetate. The pH of the aqueous phase was adjusted to 2 by adding some diluted sulphuric acid and the mixture was extracted with 60 ml. of ethyl acetate. The organic extract was dried over magnesium sulphate. The solvent was evaporated in vacuo and the residue was treated with ether. Thus 2.07 g. of 7-[2-(4-chlorophenoxymethyl)-1,3,4-oxadiazole-5-ylthio]-acetamido-3-acetylaminomethylceph-3-em-4-carboxylic acid were obtained.

reactant | 7-bromoacetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid | BrCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C)=O)C(=O)O)C1=O | C12H14BrN3O5S
reactant | 2-(4-chlorophenoxymethyl)-5-mercapto-1,3,4-oxadiazole | ClC1=CC=C(OCC=2OC(=NN2)S)C=C1 | C9H7ClN2O2S
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
product | 7-[2-(4-chlorophenoxymethyl)-1,3,4-oxadiazole-5-ylthio]-acetamido-3-acetylaminomethylceph-3-em-4-carboxylic acid | Yield: 75% | ClC1=CC=C(OCC=2OC(=NN2)SC2[C@@H]3N(C(=C(C(S3)NC(C)=O)CNC(C)=O)C(=O)O)C2=O)C=C1 | C21H20ClN5O7S2
